US07968725B2
e) 2-[2-(3,5-Bis-trifluoromethyl-phenyl)-6-(4-trifluoromethyl-phenyl)-pyridin-4-yl]-4-methyl-pentanoic acid
A solution of 2-[2-(3,5-bis-trifluoromethyl-phenyl)-6-(4-trifluoromethyl-phenyl)-pyridin-4-yl]-4-methyl-pentanoic acid methyl ester (80 mg, 0.14 mmol) in NaOH (1N, 1 mL) and THF (4 mL) was stirred at 40° C. overnight. The mixture was cooled to room temperature, acidified with 10% citric acid, extracted with CH2Cl2 (3×). The organic layer was washed with brine, dried over Na2SO4, filtered and evaporated. The residue was purified by chromatography (5-30% ethyl acetate in CH2Cl2) to give the product as a white solid (60 mg, 78%). 1H NMR (300 MHz, CDCl3) δ 8.55 (s, 2H), 8.23 (d, J=7.91 Hz, 2H), 7.96 (s, 1H), 7.72-7.85 (m, 4H), 3.89 (t, J=7.91 Hz, 1H), 2.08-2.22 (m, 1H), 1.75-1.85 (m, 1H), 1.55-1.68 (m, 1H), 0.99 (d, J=6.40 Hz, 6H). MS m/e 550.2 (M+H).

reactant | 2-[2-(3,5-bis-trifluoromethyl-phenyl)-6-(4-trifluoromethyl-phenyl)-pyridin-4-yl]-4-methyl-pentanoic acid methyl ester | 0.14 mmol, 80 mg | COC(C(CC(C)C)C1=CC(=NC(=C1)C1=CC=C(C=C1)C(F)(F)F)C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)=O | C27H22F9NO2
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | NaOH | 1N, 1 mL | [OH-].[Na+]
solvent | THF | 4 mL | C1CCOC1 | C4H8O
product | 2-[2-(3,5-Bis-trifluoromethyl-phenyl)-6-(4-trifluoromethyl-phenyl)-pyridin-4-yl]-4-methyl-pentanoic acid | 60 mg, 78% | FC(C=1C=C(C=C(C1)C(F)(F)F)C1=NC(=CC(=C1)C(C(=O)O)CC(C)C)C1=CC=C(C=C1)C(F)(F)F)(F)F | C26H20F9NO2
